US05281747
A solution of 1.1 g of isobutyl P-[3-amino-2(S)-hydroxy-propyl]-P-methyl-phosphinate in 20 ml of 36% aqueous hydrochloric acid is heated to reflux for a period of 12 hours. The reaction mixture is then allowed to cool to room temperature, concentrated under reduced pressure, and co-evaporated four times with 25 ml of water. The crude material is dissolved in water, washed with ether and the aqueous layer is treated with activated charcoal. The solution is filtered hot, the filtrate is concentrated under reduced pressure, the residue dissolved in 20 ml of ethanol and treated with 1 ml of propylene oxide. The mixture is stirred until the precipitated solid is free of halogen. The solid is then filtered and recrystallised from methanol/acetone give P-[3-amino-2(S)-hydroxypropyl]-P-methyl-phosphinic acid, m.p. 221°-222.5°, 31P-NMR spectrum: δ=+38.9 ppm (D2O), [α]D25 =-6.0° (c=0.887% in H2O).

reactant | isobutyl P-[3-amino-2(S)-hydroxy-propyl]-P-methyl-phosphinate | 1.1 g | NC[C@@H](CP(OCC(C)C)(=O)C)O | C8H20NO3P
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | P-[3-amino-2(S)-hydroxypropyl]-P-methyl-phosphinic acid | NC[C@@H](CP(O)(=O)C)O | C4H12NO3P
